US05801173
N-(2-Pyridyl)-(2S)-2-pyrrolidinemethanol
A mixture of 2-chloropyridine (118 g) and L-prolinol (70 g) was heated under nitrogen atmosphere at 160° C. with stirring for 4 h. The mixture was cooled to room temperature and poured into water and the solution was extracted with chloroform repeatedly. The combined organic extracts were dried (Na2SO4) and concentrated. The crude product was purified by column chromatography using 2% MeOH in CHCl3 as eluent to get 67.3 g (54.5%) of the title compound as a syrupy liquid.

reactant | 2-chloropyridine | 118 g | ClC1=NC=CC=C1 | C5H4ClN
reactant | L-prolinol | 70 g | N1[C@H](CO)CCC1 | C5H11NO
solvent | water | O | H2O
product | N-(2-Pyridyl)-(2S)-2-pyrrolidinemethanol | 67.3 g, 54.5% | N1=C(C=CC=C1)N1[C@@H](CCC1)CO | C10H14N2O
